US05646173
A solution of 18.9 g of 3,3,6-trimethyl-1-indanone, 22.4 ml of 3-buten-2-ol and 300 mg of p-toluenesulfonic acid in 200 ml of 2,2-dimethoxy-propane was boiled under reflux for 64 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/ethyl acetate 6:1). In addition to 4.5 g of educt, there were obtained 12.7 g (51%) of (RS)-2-(2-buten-1-yl)-3,3,6-trimethyl-1-indanone as a yellow oil

reactant | 3,3,6-trimethyl-1-indanone | 18.9 g | CC1(CC(C2=CC(=CC=C12)C)=O)C | C12H14O
reactant | 3-buten-2-ol | 22.4 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 300 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxy-propane | 200 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-3,3,6-trimethyl-1-indanone | 12.7 g, 51% | C(C=CC)C1C(C2=CC(=CC=C2C1(C)C)C)=O | C16H20O
